US06489344B1
1 mmol of 2-[4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}-amino)pyrimidin-5-yl]isoindoline-1,3-dione and 20 mmol of hydrazine were stirred in ethanol at 75° C. for two hours and then purified by column chromatography eluting with 5-10% methanol/methylene chloride to obtain [5-amino-4-(2,4-dichlorophenyl)pyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 2-[4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}-amino)pyrimidin-5-yl]isoindoline-1,3-dione | 1 mmol | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1N1C(C2=CC=CC=C2C1=O)=O)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C25H17Cl2N7O4
reactant | hydrazine | 20 mmol | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | [5-amino-4-(2,4-dichlorophenyl)pyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | NC=1C(=NC(=NC1)NCCNC1=NC=C(C=C1)[N+](=O)[O-])C1=C(C=C(C=C1)Cl)Cl | C17H15Cl2N7O2
